US09303033B2
To 5-((5-(3-chlorophenylamino)-7-(piperidin-4-ylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione (30 mg, 0.06 mmol) in THF and AcOH (4.8 mg, 0.08 mmol) was added acetaldehyde (2.0 mL, 0.2 mmol) and sodium triacetoxy borohydride (85.0 mg, 0.4 mmol). The mixture was stirred at room temperature for 0.5 hour. The reaction mixture was concentrated, diluted with MeOH, and purified by prep HPLC to yield 5-((5-(3-chlorophenylamino)-7-(1-ethylpiperidin-4-ylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione. LCMS (M+1=481)

reactant | 5-((5-(3-chlorophenylamino)-7-(piperidin-4-ylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione | 0.06 mmol, 30 mg | ClC=1C=C(C=CC1)NC1=NC=2N(C(=C1)NC1CCNCC1)N=CC2C=C2C(NC(N2)=O)=O | C21H21ClN8O2
reactant | AcOH | 0.08 mmol, 4.8 mg | CC(=O)O | C2H4O2
reactant | acetaldehyde | 0.2 mmol, 2.0 mL | C(C)=O | C2H4O
reactant | sodium triacetoxy borohydride | 0.4 mmol, 85.0 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 5-((5-(3-chlorophenylamino)-7-(1-ethylpiperidin-4-ylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione | ClC=1C=C(C=CC1)NC1=NC=2N(C(=C1)NC1CCN(CC1)CC)N=CC2C=C2C(NC(N2)=O)=O | C23H25ClN8O2
